US09102607B2
10 g (72.4 mmol) of salicylic acid and 6.1 ml (76 mmol) of pyridine are placed in 100 ml of acetone at −5° C. 9.3 ml (76 mmol) of 2,2-dimethylpropionyl chloride are added and, after stirring at ambient temperature for 2 hours, water is added and the mixture is extracted with dichloromethane. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is precipitated from heptane at 0° C. and then filtered off. 16.9 g of 2-(2,2-dimethylpropionyloxy)benzoic acid are obtained in the form of a white powder with a yield of 95%.

reactant | salicylic acid | 72.4 mmol, 10 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | pyridine | 76 mmol, 6.1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethylpropionyl chloride | 76 mmol, 9.3 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(2,2-dimethylpropionyloxy)benzoic acid | 16.9 g, yield of 95% | CC(C(=O)OC1=C(C(=O)O)C=CC=C1)(C)C | C12H14O4
